US04322420
4-Anilino-5-chloroquinazoline hydrochloride (Compound No. 2)
A solution of 3.0 g of 4,5-dichloroquinazoline and 1.4 g of aniline in 20 ml of ethanol was heated, whereupon a violet reaction occurred and the reaction mixture solidified. After cooling, the solidified product was collected and recrystallized from ethanol to give 1.8 g (yield 46%) of the desired Compound No. 2 in the form of a pale yellow powder melting at 263°-267° C. (with decomposition).

reactant | 4,5-dichloroquinazoline | 3.0 g | ClC1=NC=NC2=CC=CC(=C12)Cl | C8H4Cl2N2
reactant | aniline | 1.4 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Anilino-5-chloroquinazoline hydrochloride | 1.8 g, yield 46% | Cl.N(C1=CC=CC=C1)C1=NC=NC2=CC=CC(=C12)Cl | InChI=1S/C14H10ClN3.ClH/c15-11-7-4-8-12-13(11)14(17-9-16-12)18-10-5-2-1-3-6-10;/h1-9H,(H,16,17,18);1H
